US07713994B2
A solution of 1-(4-nitro-phenyl)-piperidine-4-carboxylic acid methoxy-methyl-amide (approximately 0.20 g, 0.8 mmol) in ethanol/ethyl acetate (1:1, 30 mL) and concentrated hydrochloric acid (1 mL) is degassed with dry ice. Palladium on carbon (10%, 35 mg) is added and the mixture is shaken for two hours under 40 psi of hydrogen. The mixture is filtered through a pad of diatomaceous earth and concentrated under reduced pressure to give 1-(4-amino-phenyl)-piperidine-4-carboxylic acid methoxy-methyl-amide dihydrochloride (0.30 g, >100%).

reactant | 1-(4-nitro-phenyl)-piperidine-4-carboxylic acid methoxy-methyl-amide | 0.8 mmol, approximately 0.20 g | CON(C(=O)C1CCN(CC1)C1=CC=C(C=C1)[N+](=O)[O-])C | C14H19N3O4
reactant | dry ice | C(=O)=O | CO2
reactant | hydrogen | [H][H] | H2
reactant | hydrochloric acid | 1 mL | Cl | ClH
solvent | ethanol ethyl acetate | 30 mL | C(C)O.C(C)(=O)OCC
catalyst | Palladium on carbon | 35 mg | [Pd] | Pd
product | 1-(4-amino-phenyl)-piperidine-4-carboxylic acid methoxy-methyl-amide dihydrochloride | 0.30 g, >100% | Cl.Cl.CON(C(=O)C1CCN(CC1)C1=CC=C(C=C1)N)C | InChI=1S/C14H21N3O2.2ClH/c1-16(19-2)14(18)11-7-9-17(10-8-11)13-5-3-12(15)4-6-13;;/h3-6,11H,7-10,15H2,1-2H3;2*1H
